US05003080
A solution of crude (R)-1,1-dimethylethyl 6-cyano-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3oxohexanoate, 43 g (0.126 mol) in 350 mL of tetrahydrofuran is treated with 213 mL of tetrabutylammonium fluoride solution (1.0 M in hexane). The resulting mixture is stirred for five hours, at 25° C. The mixture is treated with 500 mL of water, 300 mL of diethyl ether is added, and the layers separated. The organic layer is dried (magnesium sulfate) and then filtered through a plug of silica gel with the aid of anhydrous diethyl ether. The solvent is removed under a vacuum to obtain 21 g of crude (R)-1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxohexanoate with acceptable NMR, MS and IR spectra.

reactant | (R)-1,1-dimethylethyl 6-cyano-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3oxohexanoate | C(#N)C[C@H](CC(CC(=O)OC(C)(C)C)=O)O[Si](C)(C)C(C)(C)C | C17H31NO4Si
reactant | tetrabutylammonium fluoride | 1.0 M, 213 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 500 mL | O | H2O
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | (R)-1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxohexanoate | 21 g | C(#N)C[C@H](CC(CC(=O)OC(C)(C)C)=O)O | C11H17NO4
